US07423150B2
Under a nitrogen atmosphere, 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)-pyridin-2-amine (1 eq) and diisopropylethylamine (4 eq) in methylene chloride was brought to 0° C. Acetyl chloride (1.1 eq) was added dropwise and mixture stirred for 5 minutes. Reaction brought to room temperature and water added. Organic layer washed with brine, dried over sodium sulfate and concentrated to yield N-(4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridin-2-yl)acetamide. HPLC=3.21 min; MS: MH+=333.

reactant | 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)-pyridin-2-amine | 1 eq | COC1=C(OC2=CC(=NC=C2)N)C=C(C(=C1)NC)[N+](=O)[O-] | C13H14N4O4
reactant | diisopropylethylamine | 4 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Acetyl chloride | 1.1 eq | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridin-2-yl)acetamide | COC1=C(OC2=CC(=NC=C2)NC(C)=O)C=C(C(=C1)NC)[N+](=O)[O-] | C15H16N4O5
